US06320050B1
A solution of and 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid (73 mg, 0.2 mmol) and triphenylphosphine (79 mg, 0.3 mmol) in methylene chloride (5.0 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (60.5 mg, 0.34 mmol). After the complete addition of N-bromosuccinimide, the reaction mixture was allowed to warm to 25° C. over 30 min. The reaction mixture was then treated with 2-aminopyridine (28.2 mg, 0.3 mmol) and pyridine (1 drop). The resulting reaction mixture was stirred at 25° C. for 48 h. The reaction mixture was then diluted with methylene chloride (50 mL). The organic layer was washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (2×25 mL), dried over magnesium sulfate and sodium sulfate, filtered, and concentrated in vacuo. High pressure liquid chromatography (Chromegasphere SI-60, 10 μM, 60Å, 25 cm×2 3cm ID, 50/50 heptane/ethyl acetate) afforded 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-N-pyridin-2-yl-propionamide (54.2 mg, 61.5%) as a white solid: mp 86-89° C.; EI-HRMS m/e calcd for C21H23F3N2O3S (M+) 440.1383, found 440.1381.

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid | 0.2 mmol, 73 mg | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F | C16H19F3O4S
reactant | triphenylphosphine | 0.3 mmol, 79 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.34 mmol, 60.5 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-aminopyridine | 0.3 mmol, 28.2 mg | NC1=NC=CC=C1 | C5H6N2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-N-pyridin-2-yl-propionamide | 54.2 mg, 61.5% | C1(CCCC1)CC(C(=O)NC1=NC=CC=C1)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F | C21H23F3N2O3S
